US04676980
(a) Biotin anti-target cell antibody:
Dissolve 1 mg of N-hydroxysuccinimidobiotin (bio-NHS) in 1 ml dimethylsulfoxide. Add 7 ul of bio-NHS solution to protein (a 3 fold molar excess). Let sit 1 hr at room temperature. Dialyze vs PBS.

reactant | N-hydroxysuccinimidobiotin | 1 mg | ON1[C@H]2CS[C@@H](CCCC(C(O)=O)N3C(CCC3=O)=O)[C@H]2NC1=O | C14H19N3O6S
solvent | dimethylsulfoxide | 1 ml | CS(=O)C | C2H6OS
product | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
